US06589970B2
Step 2: 2-(1-Bromo-6-{[(3-methyl-benzofuran-2-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-3-phenyl-propionic acid.
A mixture of 1 N NaOH (5 mL, 5 mmol) and 2-(1-bromo-6-{[(3-methyl-benzofuran-2-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-3-phenyl-propionic acid methyl ester (1.58 g, 2.76 mmol), prepared in the previous step, in 200 mL of methanol plus 5 mL of water was stirred under nitrogen at room temperature overnight and then at 60° C. for 6 h. 1 N HCl (6.2 mL, 6.2 mmol) was added and the reaction concentrated under reduced pressure to remove the methanol. The solid that precipitated was collected by filtration and dried under reduced pressure to give the title compound as an off-white solid, mp 110-113° C.

reactant | NaOH | 5 mmol, 1 N, 5 mL | [OH-].[Na+]
reactant | 2-(1-bromo-6-{[(3-methyl-benzofuran-2-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-3-phenyl-propionic acid methyl ester | 2.76 mmol, 1.58 g | COC(C(CC1=CC=CC=C1)OC1=C(C2=CC=C(C=C2C=C1)CNC(=O)C=1OC2=C(C1C)C=CC=C2)Br)=O | C31H26BrNO5
reactant | water | 5 mL | O | H2O
reactant | HCl | 6.2 mmol, 1 N, 6.2 mL | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
product | 2-(1-Bromo-6-{[(3-methyl-benzofuran-2-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-3-phenyl-propionic acid | BrC1=C(C=CC2=CC(=CC=C12)CNC(=O)C=1OC2=C(C1C)C=CC=C2)OC(C(=O)O)CC2=CC=CC=C2 | C30H24BrNO5
